US04885367
Following a reaction similar to that of Example 1 (2) using 5.0 g of 2-(tetrahydro-4H-thiopyran-4-yloxy)nitrobenzene, iron powder and ammonium chloride, there was obtained 4.3 g of 2-(tetrahydro-4H-thiopyran-4-yloxy)aniline.

reactant | 2-(tetrahydro-4H-thiopyran-4-yloxy)nitrobenzene | 5.0 g | S1CCC(CC1)OC1=C(C=CC=C1)[N+](=O)[O-] | C11H13NO3S
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | iron | [Fe] | Fe
product | 2-(tetrahydro-4H-thiopyran-4-yloxy)aniline | 4.3 g | S1CCC(CC1)OC1=C(N)C=CC=C1 | C11H15NOS
